US08957203B2
2-chloro-7-methoxyquinazolin-4-ol (288 mg, 1.368 mmol) was dissolved in Dimethylamine 2 M in THF (2 ml, 4.00 mmol) and heated to 100° C. for 1 h in a sealed tube. The reaction was cooled and the volatiles were removed under vacuum. The crude solid was collected and washed with water, filtered and dried to give 2-(dimethylamino)-7-methoxyquinazolin-4-ol which was carried to the next step without further purification. MS: MS m/z 220.1 (M++1).

reactant | 2-chloro-7-methoxyquinazolin-4-ol | 1.368 mmol, 288 mg | ClC1=NC2=CC(=CC=C2C(=N1)O)OC | C9H7ClN2O2
reactant | THF | 4.00 mmol, 2 ml | C1CCOC1 | C4H8O
reactant | Dimethylamine | 2 M | CNC | C2H7N
product | 2-(dimethylamino)-7-methoxyquinazolin-4-ol | CN(C1=NC2=CC(=CC=C2C(=N1)O)OC)C | C11H13N3O2
